US06969712B2
2) 5-(4-Ethyl-2-methylpiperazin-1-yl)-4-methyl-2-nitroaniline
A reaction was conducted by the method similar to Example 143-1) except that the compound of 1) above was used in place of 4-cyano-3-fluoro-6-nitroaniline and 1-ethyl-3-methylpiperazine was used in place of 1-tert-butoxycarbonyl-3-methylpiperazine, to provide the title compound as an orange-yellow solid.

reactant | 4-cyano-3-fluoro-6-nitroaniline | C(#N)C1=C(C=C(N)C(=C1)[N+](=O)[O-])F | C7H4FN3O2
reactant | 1-ethyl-3-methylpiperazine | C(C)N1CC(NCC1)C | C7H16N2
product | 5-(4-Ethyl-2-methylpiperazin-1-yl)-4-methyl-2-nitroaniline | C(C)N1CC(N(CC1)C=1C(=CC(=C(N)C1)[N+](=O)[O-])C)C | C14H22N4O2
